US09447106B2
To a solution of 7-(3-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (150 mg, 0.372 mmol) in ethanol (10 mL) was added NaBH4 (70 mg, 1.86 mmol). The mixture was stirred at rt for 16 hr and 60° C. for 2 hr. Then the reaction mixture was concentrated to a residue and partitioned between EA (50 mL) and brine (40 mL). Organic layer was separated from aqueous layer, washed with brine (50 mL×2), dried over Na2SO4 and concentrated to afford 135 mg (crude) of 7-(3-aminophenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile as a yellow solid. MS (ESI) m/e [M+1]+ 408.

reactant | 7-(3-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.372 mmol, 150 mg | NC=1C=C(C=CC1)C1=CC=NC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H17N5O
reactant | NaBH4 | 1.86 mmol, 70 mg | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-(3-aminophenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 135 mg | NC=1C=C(C=CC1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H21N5O
